US04968847
Preparation of 2,2-dibromo-3,3,3-trifluoro-1-(2-chlorophenyl) propanol.
83.5 g of CF3CBr3 in anhydrous DMF and 28 g of 2-chlorobenzaldehyde were reacted under a nitrogen atmosphere. The mixture was brought to 5° C. and zinc in powder (g.16.0) was added to it slowly. Then the mixture was let reach the room temperature and kept under stirring for 6 hours. The mixture was poured into water and extracted three times with ethyl ether.

reactant | CF3CBr3 | 83.5 g | C(F)(F)(F)C(Br)(Br)Br | C2Br3F3
reactant | 2-chlorobenzaldehyde | 28 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | zinc | [Zn] | Zn
product | 2,2-dibromo-3,3,3-trifluoro-1-(2-chlorophenyl) propanol | BrC(C(O)C1=C(C=CC=C1)Cl)(C(F)(F)F)Br | C9H6Br2ClF3O
